US07504413B2
a) 3-(methoxy)-4-(benzyloxy)benzyl methanesulfonate
A solution of 3-(methoxy)-4-(benzyloxy)benzyl alcohol (0.244 g, 1.00 mmol) in CH2Cl2 (2.0 mL) was treated with methanesulfonylchloride (0.085 mL, 1.10 mmol) and Et3N (0.160 mL, 1.15 mmol). After stirring 1 h at ambient temperature, the reaction mixture was filtered through a short plug of silica gel using CH2Cl2 as the eluant. The solution was concentrated in vacuo and taken on without purification. MS (ES+) m/e 323 [M+H]+.

reactant | 3-(methoxy)-4-(benzyloxy)benzyl alcohol | 1.00 mmol, 0.244 g | COC=1C=C(CO)C=CC1OCC1=CC=CC=C1 | C15H16O3
reactant | methanesulfonylchloride | 1.10 mmol, 0.085 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 1.15 mmol, 0.160 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 3-(methoxy)-4-(benzyloxy)benzyl methanesulfonate | CS(=O)(=O)OCC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC | C16H18O5S
